US06297238B1
4-(1-Oxospiro[indan-2,2′-oxiran]-3′-yl)benzoic acid from part b) (780 mg), methanol (50 ml), hydrazine hydrate (0.18 ml) and glacial acetic acid (6 drops) were boiled under reflux for 24 hours. The mixture was cooled in ice and filtered to give 4-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)benzoic acid, m.p. >320° C.

reactant | 4-(1-Oxospiro[indan-2,2′-oxiran]-3′-yl)benzoic acid | O=C1C2=CC=CC=C2CC12OC2C2=CC=C(C(=O)O)C=C2 | C17H12O4
reactant | hydrazine hydrate | 0.18 ml | O.NN
catalyst | acetic acid | 6 drops | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
product | 4-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)benzoic acid | N1N=C(C2=C1C1=CC=CC=C1C2)C2=CC=C(C(=O)O)C=C2 | C17H12N2O2
